US09056859B2
A solution of 6-ethenyl-3-methyl-3,4-dihydro-1H-isochromen-1-one (1.69 g, 8.98 mmol) in DCM (60 mL) was treated with m-CPBA (3.10 g, 17.96 mmol) overnight at room temperature. The reaction was then diluted with water (50 mL) and DCM (50 mL). The organic layer was further washed successively with saturated aqueous sodium bicarbonate (30 mL), water (30 mL), and brine (30 mL). The organic layer was then dried over magnesium sulfate, filtered and concentrated. The residue was purified via MPLC (15-40% EtOAc/Hex) to give 3-methyl-6-(oxiran-2-yl)-3,4-dihydro-1H-isochromen-1-one.

reactant | 6-ethenyl-3-methyl-3,4-dihydro-1H-isochromen-1-one | 8.98 mmol, 1.69 g | C(=C)C=1C=C2CC(OC(C2=CC1)=O)C | C12H12O2
reactant | m-CPBA | 17.96 mmol, 3.10 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-6-(oxiran-2-yl)-3,4-dihydro-1H-isochromen-1-one | CC1OC(C2=CC=C(C=C2C1)C1OC1)=O | C12H12O3
